US05445724
Preparation of Ethyl 5-(triphenylphosphonio)valerate Bromide
The title compound was prepared from triphenylphosphine and ethyl 5-bromovalerate as described in Example 1 in a yield of 74%.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 5-bromovalerate | BrCCCCC(=O)OCC | C7H13BrO2
product | Ethyl 5-(triphenylphosphonio)valerate Bromide | yield of 74% | [Br-].C1(=CC=CC=C1)[P+](CCCCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H28O2P.BrH/c1-2-27-25(26)20-12-13-21-28(22-14-6-3-7-15-22,23-16-8-4-9-17-23)24-18-10-5-11-19-24;/h3-11,14-19H,2,12-13,20-21H2,1H3;1H/q+1;/p-1
